US07507740B2
Production of {4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}methanol
To a suspension of 4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid (122 mg) in tetrahydrofuran (10 mL) was added triethylamine (30.5 mg) and, after stirring at room temperature for 10 min, 1,1′-carbonyldiimidazole (49 mg) was added, and the mixture was stirred at room temperature for 13 hrs. Under ice-cooling, sodium borohydride (28 mg) was added, and methanol (2.5 mL) was further added. After stirring under ice-cooling for 2 hrs, water (1.5 mL) was added, and tetrahydrofuran and methanol were evaporated under reduced pressure. Water (20 mL) was added, and the mixture was extracted with ethyl acetate (30 mL)-tetrahydrofuran (15 mL). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (15 mL)-tetrahydrofuran (5 mL). The organic layers were combined and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (eluent, ethyl acetate:methanol=99:1→9:1). The object fraction was concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate to give the title compound (65 mg).

reactant | 4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid | 122 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)O)C=C2 | C26H21N5O3
reactant | triethylamine | 30.5 mg | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 49 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium borohydride | 28 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | methanol | 2.5 mL | CO | CH4O
product | {4-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}methanol | 65 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C=C2)CO | C26H23N5O2
